US07491720B2
(8) Synthesis of (5-bromo-thiazol-2-yl)-(6-(4-benzoyl-piperazin-1-ylmethyl)-pyridin-2-yl)-amine
81 mg (0.161 mmol) of 1-(6-(5-bromo-3-methoxymethyl-3H-thiazol-2-ylideneamino)-pyridin-2-ylmethyl)4-benzoyl-piperazine was dissolved in 10 ml of chloroform, a hydrochloric acid-1,4-dioxane solution (4 M, 4 ml) was added thereto and the mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated in vacuo, the residue was recrystallized from methanol-ether and filtered and the resulting white solid was dissolved in water (10 ml) and neutralized with sodium bicarbonate. The resulting precipitate was filtered to give 32 mg (0.070 mmol) of the title compound as a white solid.

reactant | 1-(6-(5-bromo-3-methoxymethyl-3H-thiazol-2-ylideneamino)-pyridin-2-ylmethyl)4-benzoyl-piperazine | 0.161 mmol, 81 mg | BrC1=CN(C(S1)=NC1=CC=CC(=N1)CN1CCN(CC1)C(C1=CC=CC=C1)=O)COC | C22H24BrN5O2S
reactant | hydrochloric acid 1,4-dioxane | 4 M, 4 ml | Cl.O1CCOCC1
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | (5-bromo-thiazol-2-yl)-(6-(4-benzoyl-piperazin-1-ylmethyl)-pyridin-2-yl)-amine | 0.070 mmol, 32 mg | BrC1=CN=C(S1)NC1=NC(=CC=C1)CN1CCN(CC1)C(C1=CC=CC=C1)=O | C20H20BrN5OS
